US08614206B2
3-(2-Methyl-4-nitro-pyrazol-3-yl)-8-oxa-3-azabicyclo[3.2.1]octan-6-ol (500 mg, 1.96 mmoL) was dissolved in DCM (15 mL) and triethylamine (0.41 mL, 2.95 mmol) was added. After cooling to 0° C., methanesulfonyl chloride (0.19 mL, 2.45 mmol) was added slowly and the reaction mixture was allowed to warm to room temperature and stirred for 18 hr. The mixture was diluted with DCM (10 mL), quenched with water (10 mL) and the aqueous layer extracted with DCM (3×20 mL). The combined organic layers were washed with brine (10 mL), passed through a phase separation cartridge and concentrated under reduced pressure to give a light brown solid. This solid (450 mg, 1.35 mmol) was dissolved in DMF (20 mL), sodium azide (450 mg, 6.8 mmol) was added and the mixture heated at 150° C. for 18 hr, behind a blast shield. The mixture was allowed to cool to room temperature, the mixture partitioned between water (20 mL) and EtOAc (20 mL) and the aqueous layer extracted with EtOAc (3×25 mL). The combined organic layers were washed with brine (20 mL), dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (10-50%, EtOAc/isohexane) gave 6-azido-3-(2-methyl-4-nitro-pyrazol-3-yl)-8-oxa-3-azabicyclo[3.2.1]octane as brown gum (25 mg, 68% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.05 (s, 1H), 4.65 (d, J=7.4 Hz, 1H), 4.34 (s, 1H), 4.28 (dd, J=8.0, 3.2 Hz, 1H), 3.82 (s, 3H), 3.75-3.70 (m, 2H), 2.83-2.73 (m, 1H), 2.64-2.49 (m, 2H), 2.20 (ddd, J=13.4, 7.3, 3.2 Hz, 1H).

reactant | 3-(2-Methyl-4-nitro-pyrazol-3-yl)-8-oxa-3-azabicyclo[3.2.1]octan-6-ol | 500 mg | CN1N=CC(=C1N1CC2CC(C(C1)O2)O)[N+](=O)[O-] | C10H14N4O4
reactant | triethylamine | 2.95 mmol, 0.41 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.45 mmol, 0.19 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 6.8 mmol, 450 mg | [N-]=[N+]=[N-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-azido-3-(2-methyl-4-nitro-pyrazol-3-yl)-8-oxa-3-azabicyclo[3.2.1]octane | N(=[N+]=[N-])C1C2CN(CC(C1)O2)C=2N(N=CC2[N+](=O)[O-])C | C10H13N7O3
